US05962458
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (350 mg, 0.9 mmol), (prepared as described for the starting material in Example 24), 2-(2-chloroethylthio)-1-methylimidazole hydrochloride (203 mg, 0.95 mmol) and potassium carbonate (303 mg 2.2 mmol) in NMP (20 ml) was heated at 90° C. for 2 hours. The mixture was allowed to cool, diluted with water and extracted with ethyl acetate. The combined extracts were washed with water, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (100/0 increasing to 90/10) to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(1-methylimidazol-2-ylthio)ethoxy)quinazoline (75 mg, 17%) as a solid.

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.9 mmol, 350 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 2-(2-chloroethylthio)-1-methylimidazole hydrochloride | 0.95 mmol, 203 mg | Cl.ClCCSC=1N(C=CN1)C
reactant | potassium carbonate | 2.2 mmol, 303 mg | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(1-methylimidazol-2-ylthio)ethoxy)quinazoline | 75 mg, 17% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCSC=2N(C=CN2)C)C=C1)F | C21H19ClFN5O2S
